US08309542B2
(b) 6-Methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylic acid (as hydrochloride salt)
Prepared analogously to Example 45b from methyl 6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylate (as the trifluoroacetate salt).

reactant | methyl 6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylate | CN1CC2=C(CC1)C=C(S2)C(=O)OC | C10H13NO2S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 6-Methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-2-carboxylic acid | CN1CC2=C(CC1)C=C(S2)C(=O)O | C9H11NO2S
